Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
aspirin / Penicillins
 
Attending: ___
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with the past medical history of T-LGL leukemia 
with chronic leukopenia not on treatment who presents with 
febrile illness. Patient reports for the last few days he has 
had a "flu-like illness". He felt chills, but did not document a 
fever until prior to presentation of "above 101". Patient had 
vague sinus symptoms of runny nose, slight cough "like post 
nasal drip, but not from deep down". He most notably was 
bothered by generalized aches and fatigue.
Patient had some sore throat described as a dryness. Patient had 
no change in appetite or oral intake. No abdominal pain or 
nausea. No chest pain or palpitations. No shortness of breath. 
No burning or pain with urination. 

 
Past Medical History:
Sinus polyps s/p polypectomy and turbinectomy/septoplasty 
Chronic allergic rhinitis
T-LGL leukemia 
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
___ 0700 Temp: 98.1 PO BP: 103/68 HR: 68 RR: 18 O2 sat: 96% 
O2 delivery: RA 

GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. No sinus
tenderness. 
CV: Heart regular, no murmur, No JVD. Radial and DP pulses 
present. 
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen is soft, non-distended, non-tender to palpation. 
Bowel sounds present.  
GU: No suprapubic tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented x3, face symmetric, gaze conjugate with
EOMI, speech fluent, moves all limbs.
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 07:12AM BLOOD WBC-1.3* RBC-4.70 Hgb-13.4* Hct-41.2 
MCV-88 MCH-28.5 MCHC-32.5 RDW-13.1 RDWSD-41.9 Plt ___
___ 07:12AM BLOOD Neuts-6.4* Lymphs-56.3* Monos-32.5* 
Eos-4.0 Baso-0.8 AbsNeut-0.08* AbsLymp-0.71* AbsMono-0.41 
AbsEos-0.05 AbsBaso-0.01
___ 07:10AM BLOOD Hypochr-1+* Anisocy-1+* Poiklo-1+* RBC 
Mor-SLIDE REVI
___ 07:10AM BLOOD Glucose-99 UreaN-10 Creat-1.0 Na-144 
K-5.4 Cl-105 HCO3-28 AnGap-11
___ 11:00PM BLOOD ALT-25 AST-31 AlkPhos-75 TotBili-0.6
___ 07:10AM BLOOD Calcium-9.0 Phos-3.3 Mg-2.0
___ 11:02PM BLOOD Lactate-0.9

CHEST (PA & LAT) Study Date of ___ 11:23 ___ 
No acute cardiopulmonary process.
 
Brief Hospital Course:
___ male with T-LGL leukemia who presents with flu-like 
illness (viral URI)
complicated by neutropenic fever.

Patient was monitored closely on empiric IV vancomycin and IV 
cefepime. Patient had rapid resolution of his fever without 
recurrence. Patient has continued vague upper respiratory/sinus 
discomfort, headache, and mild muscle ache consistent with viral 
syndrome. Viral panel is pending, but influenza testing was 
negative on admission. Patient's ANC continued to trend 
downward, but primary oncologist recommended discharge as long 
as patient was afebrile (which was true through discharge). 
Chronic sinusitis vs allergic rhinitis with polyp disease may be 
playing a role in symptoms and patient should follow with 
outpatient ENT. 

Patient instructed to have new labs obtained and reviewed with 
primary oncologist in ___ days (CBC with DIFF to monitor ANC). 
Patient is not discharged on antibiotics as there is no proven 
bacterial infection and the risk of CDIFF is believed to be 
greater than benefit of antibiotics. 

Hospital course, assessments, and discharge plans discussed with 
patient and family who expressed understanding. Patient agreed 
to discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. budesonide 32 mcg/actuation nasal DAILY 
2. Montelukast 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg 2 tablet(s) by mouth As needed every 8 
hours Disp #*30 Tablet Refills:*0 
2.  budesonide 0.5 mg/2 mL Nasal drops DAILY  
3.  Cepacol (Sore Throat Lozenge) 1 LOZ PO Q4H:PRN Sore throat 
RX *benzocaine-menthol [Sore Throat (benzocaine-menth)] 15 
mg-3.6 mg 1 lozenge Every 4 hours as needed Disp #*14 Lozenge 
Refills:*0 
4.  Sodium Chloride Nasal ___ SPRY NU QID:PRN Nasal dryness 
RX *sodium chloride [Ocean Nasal] 0.65 % 1 Spray Each nostril 
Four times daily as needed Disp #*1 Bottle Refills:*0 
5.  Montelukast 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Neutropenic fever
Large Granular Lymphocytic Leukemia
Chronic nasal polyps and allergic rhinitis
Possible sinus infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with neutropenic fever related to your T-LGL 
Leukemia. 

We treated you with antibiotics, but cultures did not show a 
growth. 

Viral panel is pending, but would not change management as 
treatment of viral infection is supportive therapy. Wear a 
protective mask around other people until cleared by outpatient 
provider.

Continue with your prior allergy regimen.

Alternatively, this may represent a flare of your underlying 
disease.
Follow lab results with your primary hematologist-oncologist in 
___ days to monitor your ANC (neutrophil) count. Your outpatient 
provider ___ continue to provide management that may include 
initiation of maintenance therapy for your leukemia versus prior 
surveillance. 

It was a pleasure taking care of you and we wish you the best.

Your ___ team
 
Followup Instructions:
___